US08314098B2
(Step 2): N-[2-{4-(2-Methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-N′-(3-methyl-benzylidene)-hydrazine (Compound 24)
There was suspended, in ethanol (2 mL), 5-chloro-2-{4-(2-methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (32.6 mg, 0.0841 mM) and then potassium carbonate (12.8 mg, 0.0925 mM) and hydrazine monohydrate (40.8 μL, 0.841 mM) were added to the suspension. This suspension was stirred at 150° C. for 30 minutes under the irradiation with microwaves. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and then the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (9.9 μL, 0.0841 mM) were added to the suspension and then the mixture was stirred at room temperature for 30 minutes. This reaction mixture was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) and further the resulting solid was washed with methanol to thus give the title compound (10.6 mg, overall yield of these two steps: 26%).

reactant | 5-chloro-2-{4-(2-methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.0841 mM, 32.6 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)NCCOC | C19H22ClN5O2
reactant | potassium carbonate | 0.0925 mM, 12.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 0.841 mM, 40.8 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-[2-{4-(2-Methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-N′-(3-methyl-benzylidene)-hydrazine | COCCNC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)=C1 | C27H31N7O2
